US04871745
When in the above procedure, 2-aminopyridine or 3-hydroxy-2-aminopyridine is used in place of 5-bromo-2-aminopyridine, 2-(4-dibutylaminopropoxybenzoyl)imidazo[1,2-a]pyridine or 2-(4-dibutylaminopropoxybenzoyl)-8-hydroxyimidazo[1,2-a]pyridine is obtained.

reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | 3-hydroxy-2-aminopyridine | OC=1C(=NC=CC1)N | C5H6N2O
reactant | 2-(4-dibutylaminopropoxybenzoyl)imidazo[1,2-a]pyridine | C(CCC)N(CCCC)CCCOC1=CC=C(C(=O)C=2N=C3N(C=CC=C3)C2)C=C1 | C25H33N3O2
product | 2-(4-dibutylaminopropoxybenzoyl)-8-hydroxyimidazo[1,2-a]pyridine | C(CCC)N(CCCC)CCCOC1=CC=C(C(=O)C=2N=C3N(C=CC=C3O)C2)C=C1 | C25H33N3O3
